US07459454B2
(b) Preparation of 3-[1-(methoxyethyl)-1H-benzimidazol-2-yl]pyrazin-2-amine
3-(1H-benzimidazol-2-yl)pyrazin-2-amine (0.302 g, 0.14 mmol) was dissolved in N,N-dimethyl formamide (10 mL) and treated with 2-bromoethyl methyl ether (0.15 mL, 0.16 mmol) and cesium carbonate (0.475 g, 1.4 mmol). The mixture was stirred at ambient temperature for 20 hours and then filtered through celite. The filtrate was concentrated and partitioned between ethyl acetate and water. The mixture was extracted into ethyl acetate (×3) and the combined organic layers were washed with water, and then with saturated sodium chloride. The organics were dried over magnesium sulfate, filtered and concentrated. Trituration with diethyl ether afforded the title compound as tan solids (0.275 g, 0.10 mmol).

reactant | 3-(1H-benzimidazol-2-yl)pyrazin-2-amine | 0.14 mmol, 0.302 g | N1C(=NC2=C1C=CC=C2)C=2C(=NC=CN2)N | C11H9N5
reactant | 2-bromoethyl methyl ether | 0.16 mmol, 0.15 mL | COCCBr | C3H7BrO
reactant | cesium carbonate | 1.4 mmol, 0.475 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethyl formamide | 10 mL | CN(C=O)C | C3H7NO
product | 3-[1-(methoxyethyl)-1H-benzimidazol-2-yl]pyrazin-2-amine | 0.10 mmol, 0.275 g | COCCN1C(=NC2=C1C=CC=C2)C=2C(=NC=CN2)N | C14H15N5O
